US04769366
2-(4-Benzyl-1-piperazinyl)-4-(4-hydroxyphenyl)-1-azaspiro[4.5]deca-1,3,6,9-tetraen-8-one can be obtained in the following manner: 2-(4-benzyl-1-piperazinyl)-4-(4-methoxyphenyl)-1-azaspiro[4.5]deca-1,3,6,9-tetraen-8-one (6.3 g) dissolved in acetic acid (150 cc) and a 48% strength solution of hydrobromic acid (100 cc) are heated for 12 hours to a temperature of about 100° C. After being cooled to a temperature of about 20° C., the solution is evaporated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 40° C. Crushed ice (200 g) is added to the residue, followed by 11N aqueous ammonia solution (500 cc). The aqueous solution is washed with chloroform (2×300 cc). The organic fractions are combined, washed with distilled water (200 cc), dried over anhydrous sodium sulphate, filtered and evaporated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 40° C. The residue obtained is dissolved in chloroform (200 cc) and the solution is poured into silica (120 g) contained in a column 3.2 cm in diameter. Elution is performed first with chloroform (1 liter) and the corresponding eluate is rejected. Elution is then performed with a mixture of chloroform and methanol (95:5 volume) (1 liter) and the corresponding eluate is evaporated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 40° C. 2-(4-Benzyl-1-piperazinyl)-4-(4-hydroxyphenyl)-1-azaspiro[4.5]deca-1,3,6,9-tetraen-8-one (3.8 g) is thereby obtained in the form of a brown cake.

reactant | 2-(4-benzyl-1-piperazinyl)-4-(4-methoxyphenyl)-1-azaspiro[4.5]deca-1,3,6,9-tetraen-8-one | 6.3 g | C(C1=CC=CC=C1)N1CCN(CC1)C1=NC2(C(=C1)C1=CC=C(C=C1)OC)C=CC(C=C2)=O | C27H27N3O2
reactant | hydrobromic acid | 100 cc | Br | BrH
solvent | acetic acid | 150 cc | C(C)(=O)O | C2H4O2
solvent | chloroform | 200 cc | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-Benzyl-1-piperazinyl)-4-(4-hydroxyphenyl)-1-azaspiro[4.5]deca-1,3,6,9-tetraen-8-one | 3.8 g | C(C1=CC=CC=C1)N1CCN(CC1)C1=NC2(C(=C1)C1=CC=C(C=C1)O)C=CC(C=C2)=O | C26H25N3O2
